US08871782B2
2-Ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-ol (1.5 g, 4.5 mmol), chloroform (45 mL), and triethylamine (0.697 mL, 5.00 mmol) were combined. Methanesulfonyl chloride (0.348 mL, 4.50 mmol) was added dropwise to the mixture; a flocculent precipitate formed. The reaction was stirred for 72 hours and then quenched with methanol. The volatiles were removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluting with a dichloromethane:methanol gradient) to provide 0.628 g of 2-ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-yl methanesulfonate as a white solid.

reactant | 2-Ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-ol | 4.5 mmol, 1.5 g | C(C)C=1N(C2=C(C=NC=3C=C(C=CC23)O)N1)CCOC1=CC=CC=C1 | C20H19N3O2
reactant | triethylamine | 5.00 mmol, 0.697 mL | C(C)N(CC)CC | C6H15N
reactant | Methanesulfonyl chloride | 4.50 mmol, 0.348 mL | CS(=O)(=O)Cl | CH3ClO2S
solvent | chloroform | 45 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-ethyl-1-(2-phenoxyethyl)-1H-imidazo[4,5-c]quinolin-7-yl methanesulfonate | 0.628 g | CS(=O)(=O)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCOC3=CC=CC=C3)CC | C21H21N3O4S
